US04540699
2-[4-(Dimethylaminomethyl)pyrid-2-ylmethylthio]ethylamine (0.63 g) and 2-nitroamino-5-(1-methyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one (0.69 g) were refluxed in ethanol (12 ml) for 72 hours. As the reaction was not complete, the ethanol was replaced by pyridine (12 ml) and the solution refluxed for a further 6 hours. The reaction mixture was evaporated under reduced pressure to afford a residue which was washed with diethyl ether and recrystallised from isopropanol/ether to give 2-[2-[4-(dimethylaminomethyl)pyrid-2-ylmethylthio]ethylamino]-5-(1-methyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one (0.62 g), m.p. 137°-139° C.

reactant | 2-[4-(Dimethylaminomethyl)pyrid-2-ylmethylthio]ethylamine | 0.63 g | CN(C)CC1=CC(=NC=C1)CSCCN | C11H19N3S
reactant | 2-nitroamino-5-(1-methyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one | 0.69 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC(N(C=C1)C)=O | C11H11N5O4
reactant | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 2-[2-[4-(dimethylaminomethyl)pyrid-2-ylmethylthio]ethylamino]-5-(1-methyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one | 0.62 g | CN(C)CC1=CC(=NC=C1)CSCCNC1=NC=C(C(N1)=O)CC1=CC(N(C=C1)C)=O | C22H28N6O2S
